US05346828
Sodium hydroxide (6 g, 150 mmoles) and 8.9 g (100 mmoles) of D,L-alanine are dissolved in 25 mL of water and the solution cooled to around 5° C. while stirring under a nitrogen atmosphere. To the solution is added 21.2 g (200 mmoles) benzaldehyde and the mixture stirred at 5° C. for approximately one hour. The mixture is then warmed to room temperature and maintained for approximately 20 hours. Concentrated hydrochloric acid then is added to bring the reaction mixture to pH 2.0. After stirring the acidic solution for two hours, the aqueous phase is separated, extracted with ethyl acetate and evaporated under vacuum. The resulting material is twice extracted with 80 mL hot absolute ethanol, followed by evaporation of the ethanol. The resulting material is again extracted with 40 mL of absolute ethanol, followed by removal of the ethanol. The extract then is dissolved in at least a 1:1 methanol water solution and absorbed on polymethacrylate column. The column then is eluted with the same 1:1 methanol water solution and the 30 mL fractions are combined and evaporated. Purification on the polymethacrylate column then is repeated using 95% ethanol to yield racemic 2-amino-2-methyl-3-hydroxy-3-phenylpropionic acid.

reactant | Sodium hydroxide | 150 mmoles, 6 g | [OH-].[Na+]
reactant | D,L-alanine | 100 mmoles, 8.9 g | NC(C)C(=O)O | C3H7NO2
reactant | benzaldehyde | 200 mmoles, 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 mL | O | H2O
product | racemic 2-amino-2-methyl-3-hydroxy-3-phenylpropionic acid | NC(C(=O)O)(C(C1=CC=CC=C1)O)C | C10H13NO3
